US04737516
(G) 3-Fluoro-7-methylbenzo[b]thiophene
50 ml of a 1.6M solution of butyllithium in abs. ether are added dropwise at -78° to a solution of 18.1 g of 3-bromo-7-methylbenzo[b]thiophene in abs. ether. After 20 Minutes 9 g of perchlorylfluoride are introduced under inert gas and with stirring whereby the reaction temperature is maintained below -60°. The resulting mixture is stirred for 30 minutes at -78° and then slowly warmed to 0°, mixed with water and the organic phase separated, washed, dried and concentrated under vacuum. The residue is chromatographed over silica gel (eluant: hexane) to obtain the title compound as an oil.

reactant | butyllithium | C(CCC)[Li]
reactant | ether | CCOCC | C4H10O
reactant | 3-bromo-7-methylbenzo[b]thiophene | 18.1 g | BrC=1C2=C(SC1)C(=CC=C2)C | C9H7BrS
reactant | perchlorylfluoride | 9 g | Cl(=O)(=O)(=O)F | ClFO3
solvent | water | O | H2O
product | 3-Fluoro-7-methylbenzo[b]thiophene | FC=1C2=C(SC1)C(=CC=C2)C | C9H7FS
